US06969716B2
2,4-Difluorobenzenecarboximidic hydrazide hydriodide salt was made from 2,4-difluorothiobenzamide using the method described in Example 24. (4-Fluoro-3-trifluoromethylphenyl)oxoacetaldehyde was reacted with 2,4-difluorobenzenecarboximidic hydrazide hydriodide salt using the method described in Example 1 to give 3-(2,4-difluorophenyl)-5-(4-fluoro-3-trifluoromethylphenyl)-[1,2,4]triazine as a yellow solid (795 mg): δH (400 MHz, CDCl3) 7.01-7.13 (2H, m), 7.45 (1H, t, J 9.2 Hz), 8.32-8.38 (1H, m), 8.46-8.50 (1H, m), 8.55 (1H, dd, J 2.3, 6.7 Hz), 9.66 (1H, s); m/z (ES+) 356.

reactant | 2,4-Difluorobenzenecarboximidic hydrazide hydriodide salt | I.FC1=C(C=CC(=C1)F)C(=N)NN
reactant | 2,4-difluorothiobenzamide | FC1=C(C(=S)N)C=CC(=C1)F | C7H5F2NS
reactant | (4-Fluoro-3-trifluoromethylphenyl)oxoacetaldehyde | FC1=C(C=C(C=C1)C(C=O)=O)C(F)(F)F | C9H4F4O2
product | 3-(2,4-difluorophenyl)-5-(4-fluoro-3-trifluoromethylphenyl)-[1,2,4]triazine | 795 mg | FC1=C(C=CC(=C1)F)C=1N=NC=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F | C16H7F6N3
